US04558047
To a solution of cytidine (2.43 g) and 2-aminopyrimidine (0.95 g) in water (15 ml) was added sodium metaperiodate (2.13 g) at 15° C. The solution was stirred at ambient temperature for four hours. To the reaction mixture was added methanol (20 ml). A precipitate was filtered off and the filtrate was condenced in vacuo. The condenced solution was lyophilized to give white powder of 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]cytosine (3.20 g).

reactant | cytidine | 2.43 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | 2-aminopyrimidine | 0.95 g | NC1=NC=CC=N1 | C4H5N3
reactant | sodium metaperiodate | 2.13 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]cytosine | 3.20 g | OC1N(C([C@H](O[C@H]1N1C(=O)N=C(N)C=C1)CO)O)C1=NC=CC=N1 | C13H16N6O5
